data/polar.json
{"reaction_name": "Marshall allylation", "rsmi": "[CH:1](=[C:2]=[CH:11][Sn:10]([CH3:5])([CH3:6])[CH3:7])[H:8].[O:3]=[CH:9][CH3:4]>>[CH3:5][Sn+:10]([CH3:6])[CH3:7].[CH:1]#[C:2][CH:11]([H:8])[CH:9]([O-:3])[CH3:4]", "epd": [["Pi-/LP+", [2, 11], [2]], ["LP-/Pi+", [2], [1, 2]], ["Sigma-/Sigma+", [1, 8], [8, 11]], ["Pi-/LP+", [3, 9], [3]], ["Sigma-/Sigma+", [10, 11], [9, 11]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[C:5]1(=[O:8])[N-:6][CH2:14][CH2:15][O:12]1.[O:1]=[S:7](=[O:2])([N:13]=[C:11]=[O:16])[c:18]1[cH:9][cH:3][c:17]([CH3:19])[cH:4][cH:10]1>>[O:1]=[S:7](=[O:2])([N-:13][C:11]([N:6]1[C:5](=[O:8])[O:12][CH2:15][CH2:14]1)=[O:16])[c:18]1[cH:9][cH:3][c:17]([CH3:19])[cH:4][cH:10]1", "epd": [["LP-/Sigma+", [6], [6, 11]], ["Pi-/LP+", [11, 13], [13]]]}
{"reaction_name": "Aromatic bromination", "rsmi": "[Br:7][Br:8].[c:1]1([H:9])[cH:2][cH:3][cH:4][cH:5][cH:6]1>>[Br:8][H:9].[c:1]1([Br:7])[cH:2][cH:3][cH:4][cH:5][cH:6]1", "epd": [["LP-/Sigma+", [7], [1, 7]], ["Sigma-/LP+", [7, 8], [7]], ["Sigma-/Sigma+", [1, 9], [8, 9]]]}
{"reaction_name": "Ring-expansion migration", "rsmi": "[CH2+:1][CH:4]1[CH2:2][CH2:5][CH2:3]1>>[CH2:1]1[CH2:2][CH2:5][CH2:3][CH+:4]1", "epd": [["Sigma-/Sigma+", [2, 4], [1, 2]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[c:6]1([P:32]([c:7]2[cH:14][cH:20][c:38]([N:11]([CH3:28])[CH3:29])[cH:21][cH:15]2)[c:8]2[cH:16][cH:22][c:39]([N:12]([CH3:30])[CH3:31])[cH:23][cH:17]2)[cH:13][cH:19][c:37]([N:10]([CH3:26])[CH3:27])[cH:24][cH:18]1.[n+:1]1([CH3:25])[c:2]2[cH:33][cH:40][cH:35][cH:4][c:42]2[cH:9][c:43]2[c:3]1[cH:34][cH:41][cH:36][cH:5]2>>[N:1]1([CH3:25])[c:2]2[cH:33][cH:40][cH:35][cH:4][c:42]2[CH:9]([P+:32]([c:6]2[cH:13][cH:19][c:37]([N:10]([CH3:26])[CH3:27])[cH:24][cH:18]2)([c:7]2[cH:14][cH:20][c:38]([N:11]([CH3:28])[CH3:29])[cH:21][cH:15]2)[c:8]2[cH:16][cH:22][c:39]([N:12]([CH3:30])[CH3:31])[cH:23][cH:17]2)[c:43]2[c:3]1[cH:34][cH:41][cH:36][cH:5]2", "epd": [["LP-/Sigma+", [32], [32, 9]], ["Pi-/Pi+", [9, 42], [42, 2]], ["Pi-/LP+", [2, 1], [1]]]}
{"reaction_name": "Iodonium-ion opening", "rsmi": "[CH2:1]1[CH2:2][I+:4]1.[OH-:3]>>[CH2:1]([CH2:2][I:4])[OH:3]", "epd": [["LP-/Sigma+", [3], [1, 3]], ["Sigma-/LP+", [1, 4], [4]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[c:1]1([C:5]([C:3]#[N:4])=[C:23]([O:10][CH2:24][CH3:2])[O-:11])[cH:28][cH:30][cH:18][cH:31][cH:29]1.[cH:6]1[c:12]([CH+:27][c:13]2[cH:7][c:16]([F:21])[cH:26][c:17]([F:22])[cH:8]2)[cH:9][c:14]([F:19])[cH:25][c:15]1[F:20]>>[c:1]1([C:5]([C:3]#[N:4])([C:23]([O:10][CH2:24][CH3:2])=[O:11])[CH:27]([c:12]2[cH:6][c:15]([F:20])[cH:25][c:14]([F:19])[cH:9]2)[c:13]2[cH:7][c:16]([F:21])[cH:26][c:17]([F:22])[cH:8]2)[cH:28][cH:30][cH:18][cH:31][cH:29]1", "epd": [["LP-/Pi+", [11], [23, 11]], ["Pi-/Sigma+", [5, 23], [5, 27]]]}
{"reaction_name": "Leimgruber–Batcho indole synthesis", "rsmi": "[O:1]=[N+:2]([O-:3])[c:4]1[cH:5][cH:6][cH:7][cH:8][c:9]1[CH:10]=[CH:11][N:12]([CH3:13])[CH3:14].[H:15][H:16].[H:17][H:18].[H:19][H:20]>>[N:2]1([H:15])[CH:10]=[CH:11][C:9]2=[CH:8][CH:7]=[CH:6][CH:5]=[C:4]12.[N:12]([CH3:13])([CH3:14])[H:16].[O:1]([H:17])[H:18].[O:3]([H:19])[H:20]", "epd": [["Sigma-/Sigma+", [1, 2], [1, 18]], ["Pi-/LP+", [1, 2], [2]], ["Sigma-/Sigma+", [2, 3], [2, 10]], ["LP-/Sigma+", [3], [3, 19]], ["Sigma-/Sigma+", [9, 10], [9, 11]], ["Sigma-/Sigma+", [11, 12], [12, 16]], ["Sigma-/Sigma+", [15, 16], [2, 15]], ["Sigma-/Sigma+", [17, 18], [1, 17]], ["Sigma-/Sigma+", [19, 20], [3, 20]]]}
{"reaction_name": "Activated vinyl halide displacement", "rsmi": "[O-:3][CH3:8].[O:1]([C:4](=[O:7])[CH:9]=[CH:2][Cl:5])[CH3:6]>>[Cl-:5].[O:1]([C:4](=[O:7])[CH:9]=[CH:2][O:3][CH3:8])[CH3:6]", "epd": [["LP-/Sigma+", [3], [2, 3]], ["Sigma-/LP+", [2, 5], [5]]]}
{"reaction_name": "Hydroboration–protonolysis addition step", "rsmi": "[BH2:2][H:4].[CH2:1]=[CH:3][CH3:5]>>[CH2:1]([BH2:2])[CH:3]([H:4])[CH3:5]", "epd": [["Pi-/Sigma+", [1, 3], [1, 2]], ["Sigma-/Sigma+", [2, 4], [3, 4]]]}
{"reaction_name": "Heteroaryl chloride displacement", "rsmi": "[Cl:1][c:2]1[cH:8][cH:5][cH:4][cH:7][n:9]1.[O-:3][CH3:6]>>[Cl-:1].[c:2]1([O:3][CH3:6])[cH:8][cH:5][cH:4][cH:7][n:9]1", "epd": [["LP-/Sigma+", [3], [2, 3]], ["Sigma-/LP+", [1, 2], [1]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[c:23]2[cH:22][cH:7][cH:3][cH:15][c:25]2[cH-:6][cH:24]1.[cH:2]1[cH:4][cH:14][cH:8][c:9]2[c:5]1[N+:19]([CH3:11])=[CH:13][C:12]2=[CH:10][c:18]1[cH:16][cH:20][cH:26][cH:21][cH:17]1>>[CH:1]1=[CH:24][CH:6]([CH:10]([c:12]2[c:9]3[c:5]([cH:2][cH:4][cH:14][cH:8]3)[n:19]([CH3:11])[cH:13]2)[c:18]2[cH:16][cH:20][cH:26][cH:21][cH:17]2)[c:25]2[cH:15][cH:3][cH:7][cH:22][c:23]21", "epd": [["LP-/Sigma+", [6], [6, 10]], ["Pi-/Pi+", [10, 12], [12, 13]], ["Pi-/LP+", [13, 19], [19]]]}
